US08748624B2
STEP C: N-(2-bromo-4-(trifluoromethyl)benzyl)-2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-amine
2-Bromo-1-(bromomethyl)-4-(trifluoromethyl)benzene (2.0 g, 6.3 mmol), 2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-amine (1.7 g, 6.9 mmol), and K2CO3 (1.3 g, 9.4 mmol) were diluted with DMF (20 mL) and heated to 80° C. After 3 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | 2-Bromo-1-(bromomethyl)-4-(trifluoromethyl)benzene | 6.3 mmol, 2.0 g | BrC1=C(C=CC(=C1)C(F)(F)F)CBr | C8H5Br2F3
reactant | 2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-amine | 6.9 mmol, 1.7 g | ClC1=C(C=CC(=C1)N)C1=C(C=C(C=C1)Cl)C | C13H11Cl2N
reactant | K2CO3 | 9.4 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-bromo-4-(trifluoromethyl)benzyl)-2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-amine | BrC1=C(CNC2=CC(=C(C=C2)C2=C(C=C(C=C2)Cl)C)Cl)C=CC(=C1)C(F)(F)F | C21H15BrCl2F3N
